US06479536B1
4-Fluoro-N-[3-(4-isopropylphenyl)-2,4,6,7-tetramethyl-1-benzofuran-5-yl]benzamide
By using 3-(4-isopropylphenyl)-2,4,6,7-tetramethyl-1-benzofuran-5-amine and 4-fluorobenzoyl chloride, the title compound was synthesized according to Example 1b. Yield: 72%. Melting point: 242-245° C. (Ethyl acetate-hexane)

reactant | 3-(4-isopropylphenyl)-2,4,6,7-tetramethyl-1-benzofuran-5-amine | C(C)(C)C1=CC=C(C=C1)C1=C(OC2=C1C(=C(C(=C2C)C)N)C)C | C21H25NO
reactant | 4-fluorobenzoyl chloride | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
solvent | Ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 4-Fluoro-N-[3-(4-isopropylphenyl)-2,4,6,7-tetramethyl-1-benzofuran-5-yl]benzamide | Yield: 72% | FC1=CC=C(C(=O)NC=2C(=C(C3=C(C(=C(O3)C)C3=CC=C(C=C3)C(C)C)C2C)C)C)C=C1 | C28H28FNO2
